2186-08-23 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Single maroon colored stool
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2186-8-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2186-8-23**] 02:43 AM
   Pantoprazole (Protonix) - [**2186-8-23**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-8-23**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 84 (73 - 111) bpm
   BP: 123/85(94) {91/55(48) - 132/85(94)} mmHg
   RR: 12 (9 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,073 mL
                                                                  1,030 mL
   PO:
             TF:
   IVF:
                                                                  3,073 mL
                                                                  1,030 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                    515 mL
   Urine:
                                                                  1,660 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,413 mL
                                                                    515 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   165 K/uL
   8.6 g/dL
   65 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.4 mEq/L
   4 mg/dL
   110 mEq/L
   140 mEq/L
   26.3 %
   5.0 K/uL
        [image002.jpg]
                             [**2186-8-22**]  11:13 AM
                             [**2186-8-22**]  05:50 PM
                             [**2186-8-22**]  10:29 PM
                             [**2186-8-23**]  04:25 AM
   WBC
   4.5
   5.0
   Hct
   29.6
   25.7
   27.1
   26.3
   Plt
   168
   165
   Cr
   0.4
   Glucose
   65
   Other labs: PT / PTT / INR:16.3/37.6/1.4, ALT / AST:7/42, Alk Phos / T
   Bili:126/1.2, Lactic Acid:3.2 mmol/L, Albumin:2.4 g/dL, Ca++:7.2 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.6 mg/dL
   Microbiology
   - blood culture
 pending
   - urine culture
 pending
   - MRSA screen
 pending
   - C. Diff - negative
   Imaging
   -  CT abdomen / pelvis
 increased ascites since prior study,
   persistent wall thickening and edema of ascending and transverse colon
   with new worsened edema involving stomach and proximal small bowel
   without perforation, obstruction or abscess
   Assessment and Plan
   Assessment/Plan: 47 year old female with a history of untreated HCV,
   likely cirrhosis, portal gastropathy + grade I varices, and recent
   hospitalization for c. diff colitis who presents with persistent abd
   pain, apparent GI bleed and worsening anemia.
   # Acute blood loss anemia: Concern for upper GI bleed vs lower GI
   bleed. Recent endoscopy showed grade I varices so these are less likely
   cause. Either gastritis, esophagitis or vascular ectasia more likely
   subacute source.  Has not had recent colonoscopy in setting of recent
   C.dif infection, so may also have a lower source. Transfused 2 units
   pRBCs in ED with appropriate bump in CRIT.
   - 2 18g PIVs in place
   - active T&S, crossmatch 2 units
   - q8hr crit if not bleeding
   - IV PPI [**Hospital1 7**]
   - NPO for now
   - appreciate hepatology recs
   - CT abd w/ contrast (see below)
   .
   # Abdominal pain/recent C.dif infection: Given abdominal pain and at
   least transient hypotension, concern for continued more severe
   infection.
   - Send stool for C.dif
   - CT scan with contrast to look for evidence of colitis
   - Pain control, IV morphine for now
   .
   # EtOH Abuse: intoxicated on admission
   - valium CIWA when sober
   - thiamine 100 mg IV x3 more days
   - folic acid 1 mg daily
   - social work consult
   # Presumed Cirrhosis - h/o EtOH abuse and Hepatitis C. EGD w/findings
   c/w esopagitis and portal gastropathy. ? autoimmune hepatitis: [**Doctor First Name **] of
   1:640, +[**Last Name (un) 4195**] and elevated IgG. Known Raynaud's. all labs at baseline
   - trend LFTs, currently better than baseline
   - Cont. to follow coags, got vitamin K in ED, no need to repeat
   .
   # FEN:
   - NPO
   - Replace lytes as necessary
   # Prophylaxis:
   - GI: IV PPI [**Hospital1 7**]
   - Bowels: no regimen
   - DVT: pneumoboots
   # Code Status: Full, confirmed with pt. ICU consent signed
   .
   # Contact - Boyfriend [**Name (NI) 469**] [**Telephone/Fax (1) 10190**]
   # Dispo: Pending HCT stability, and improvement in symptoms.
   ICU Care
   Nutrition:
   Glycemic Control: Blood sugar well controlled
   Lines:
   18 Gauge - [**2186-8-22**] 09:44 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 47F HCV, EtOH, esophagitis / GAVE, likely
   cihhrosis with st1 varicies p/w recent c. diff but self-d/c meds. Now
   p/w increasing blood from below and abd pain, transient hypotension.
   HCT 22-29 c one unit PRBCs. CT c bowel edema and progressive ascites.
   Exam notable for Tm 99.6 BP 100/60 HR 80 RR 18 with sat 99 on RA. WD
   woman, drowsy, NAD. CTA B. RRR s1s2. Soft diff tend, +ascites. 1+
   edema. Labs notable for WBC 6K, HCT 29, K+ 3.8, Cr 0.5, lactate 3.2.
   Agree with plan to manage likely recurrent UGIB with IV PPI,
   octreotide, GI eval - EGD likely in AM. For blood loss anemia, will
   maintain BBS, check HCT q8h, keep HCT >25. Will monitor coags and try
   to keep INR <2, fibrinogen >100. For probable untreated c. diff, will
   treat with PO vanco. Abd pain stable, low dose morphine. Will ADAT
   unless she has signs of acute bleed or is scheduled for EGD. Will trend
   LFTs. PNBTs. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-8-22**] 09:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2186-08-24 07:23:00 Physician Resident Progress Note
Chief Complaint: 47 year old female with a history of untreated HCV,
   likely cirrhosis, portal gastropathy + grade I varices, and recent
   hospitalization for c. diff colitis who presents with persistent abd
   pain, apparent GI bleed and worsening anemia
   24 Hour Events:
   - abdominal doppler: findings c/w hepatic cirrhosis and patent hepatic
   vasculature with appropriate directionality of flow, small amount of
   ascites and renal cyst
   - IR guided paracentesis performed not c/w SBP
     - 80 WBC / 632 RBC / 2 PMN / 34 L / 5 M / 59 MAC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2186-8-24**] 06:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2186-8-24**] 05:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-8-24**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 72 (72 - 108) bpm
   BP: 108/61(80) {104/54(66) - 134/95(103)} mmHg
   RR: 13 (10 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,253 mL
                  PO:
                  TF:
   IVF:
                                                                  1,253 mL
   Blood products:
   Total out:
                                                                  1,915 mL
                                                                    580 mL
   Urine:
                                                                  1,915 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -662 mL
                                                                   -580 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   181 K/uL
   8.7 g/dL
   79 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.8 mEq/L
   4 mg/dL
   108 mEq/L
   138 mEq/L
   27.3 %
   4.8 K/uL
        [image002.jpg]
                             [**2186-8-22**]  11:13 AM
                             [**2186-8-22**]  05:50 PM
                             [**2186-8-22**]  10:29 PM
                             [**2186-8-23**]  04:25 AM
                             [**2186-8-24**]  03:39 AM
   WBC
   4.5
   5.0
   4.8
   Hct
   29.6
   25.7
   27.1
   26.3
   27.3
   Plt
   168
   165
   181
   Cr
   0.4
   0.4
   Glucose
   65
   79
   Other labs: PT / PTT / INR:14.8/32.2/1.3, ALT / AST:7/42, Alk Phos / T
   Bili:136/1.2, Lactic Acid:3.2 mmol/L, Albumin:2.4 g/dL, LDH:157 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Imaging:
   - ABD US [**8-23**]: findings c/w hepatic cirrhosis and patent hepatic
   vasculature with appropriate directionality of flow, small amount of
   ascites and renal cyst
   Micro:
   - peritoneal fluid [**8-23**]: no organisms on GS, pending
   - urine [**8-22**]: negative
   - blood 9/22: negative
   - MRSA: negative
   - c.diff [**8-22**]: negative
   Assessment and Plan
   Assessment/Plan:  47 yof with hx of untreated HCV, likely cirrhosis,
   portal gastropathy and grade I varices, s/p recent hospitalization for
   c.diff p/w persistent abdominal pain, apparent GI bleed and worsening
   anemia.
   # Acute blood loss anemia:  unclear source of blood loss at this time.
   Recent endoscopy demonstrated grade I varices and no recent history of
   colonoscopy.  Patient now with stable HCT.
   - continue trend serial HCT
   - continue IV PPI for GI bleed
   - d/w hepatology consideration of flex-sig for abnormal abdominal CT in
   setting of GI bleed, continued abdominal pain and negative C. Diff
   # Abdominal pain/recent C.diff infecion:  patient continues to report
   abdominal pain with imaging demonstrating bowel wall edema.  C. Diff
   negative x 1
   - f/u second set of C.Diff toxin test
   - continue PO vancomycin pending results of second C.Diff
   - consider flex/sig in setting of continued unexplained abdominal pain
   and abnormal CT
   # EtOH Abuse: intoxicated on admission
   - valium CIWA when sober
   - thiamine 100 mg IV x 1 more day
   - folic acid 1 mg daily
   - social work consult
   # Presumed Cirrhosis - h/o EtOH abuse and Hepatitis C and prior EGD w/
   findings c/w esopagitis and portal gastropathy. All labs at baseline
   and recent ultrasound suggestive of cirrhosis.
   - paracentesis not c/w SBP
   - continue to follow coags.
   # FEN:  ADAT pending final hepatology recs, replete lytes PRN
   # Prophylaxis:
   - GI: IV PPI [**Hospital1 7**]
   - DVT: pneumoboots
   # Code Status: Full, confirmed with pt. ICU consent signed
   # Contact - Boyfriend [**Name (NI) 469**] [**Telephone/Fax (1) 10190**]
   # Dispo: Floor
   ICU Care
   Nutrition:  ADAT
   Glycemic Control: Blood sugar well controlled
   Lines:
   18 Gauge - [**2186-8-22**] 09:44 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-8-22**] 09:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: